US04559354
At an internal temperature of 0°-50°, 35.0 g of potassium tert.-butoxide are added to a solution of 35 g of 2-(4-methoxyphenyl)-4-(trifluoromethyl)-imidazole in 200 ml of dimethylformamide. After 20 minutes, a solution of 14.7 ml of 2-hydroxyethyl iodide in 100 ml of dimethylformamide is added dropwise within a period of 5 minutes, the mixture is then stirred for 120 hours at room temperature and the solvent is removed in a rotary evaporator; the residue is taken up in water and extracted several times with ethyl acetate. The organic phases are combined, the solvent is removed and the residue is chromatographed on silica gel with the solvent mixture ethyl acetate/hexane 1:1 and 1-(2-hydroxyethyl)-2-(4-methoxyphenyl)-4-(trifluoromethyl)-1H-imidazole is isolated from the main fractions in the form of a crystallising oil.

reactant | potassium tert.-butoxide | 35.0 g | CC(C)([O-])C.[K+]
reactant | 2-(4-methoxyphenyl)-4-(trifluoromethyl)-imidazole | 35 g | COC1=CC=C(C=C1)C=1NC=C(N1)C(F)(F)F | C11H9F3N2O
reactant | 2-hydroxyethyl iodide | 14.7 ml | OCCI | C2H5IO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-(2-hydroxyethyl)-2-(4-methoxyphenyl)-4-(trifluoromethyl)-1H-imidazole | OCCN1C(=NC(=C1)C(F)(F)F)C1=CC=C(C=C1)OC | C13H13F3N2O2
